US07351719B2
Z27b) 2-chloro-4-(2-diethylamino-ethoxy)-phenylamine
A suspension of 1.24 g (4.547 mmol) [2-(3-chloro-4-nitro-phenoxy)-ethyl]diethyl-amine (Z27a) and 300 mg Raney nickel in EtOAc was hydrogenated at RT and 3 bar. The catalyst was filtered off and the filtrate evaporated down i. vac.

reactant | [2-(3-chloro-4-nitro-phenoxy)-ethyl]diethyl-amine | 4.547 mmol, 1.24 g | ClC=1C=C(OCCN(CC)CC)C=CC1[N+](=O)[O-] | C12H17ClN2O3
catalyst | Raney nickel | 300 mg | [Ni] | Ni
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-4-(2-diethylamino-ethoxy)-phenylamine | ClC1=C(C=CC(=C1)OCCN(CC)CC)N | C12H19ClN2O
